US07365095B2
A suspension of methyltriphenylphosphonium bromide (19.7 g, 55.0 mmol) in anhydrous tetrahydrofuran (200 mL) was cooled to 0° C. and n-butyllithium (2.5 M in hexanes, 24.0 mL, 60.0 mmol) was added during 5–10 minutes with stirring. The resulting clear, orange solution was stirred at 0° C. for an additional 30 minutes and then was added via cannula to a solution of o-vanillin (3.80 g, 25.0 mmol) in tetrahydrofuran (100 mL) at 23° C. After 3 hours, the reaction was quenched with saturated aqueous ammonium chloride solution (100 mL), diluted with water (300 mL), and the aqueous phase was extracted with ether (3×200 mL). The organic phase was washed with water (300 mL) and brine (300 mL), dried over magnesium sulfate and filtered through a plug of silica gel (10 cm diam×5–6 cm H). Concentration under reduced pressure provided crude 2-methoxy-6-vinyl-phenol as a clear, colorless oil (4.20 g) that was used without further purification. 1H NMR (DMSO): δ3.79 (s, 3 H, OCH3), 5.19 (dd, 1H, CH═CHH), 5.74 (dd, 1H, CH═CHH), 6.74 (t, 1H, ArH), δ6.86 (dd, 1H, ArH), 6.96 (dd, 1H, CH═CHH), 7.04 (dd, 1H, ArH), and 8.74 (s, 1H, ArOH).

reactant | n-butyllithium | 60.0 mmol, 2.5 M, 24.0 mL | C(CCC)[Li]
reactant | o-vanillin | 25.0 mmol, 3.80 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
catalyst | methyltriphenylphosphonium bromide | 55.0 mmol, 19.7 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-methoxy-6-vinyl-phenol | COC1=C(C(=CC=C1)C=C)O | C9H10O2
